US06369086B1
3-[Ethoxymethylidene]-5-phenyl-1H-pyrrolo[2,3-b]pyridin-2-one
This compound was synthesized from 5-phenyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one and diethoxymethyl acetate according to Procedure A. 1H NMR 400 MHz (DMSO-d6): δ10.93 (s, 1H); 8.24 (s, 1H); 7.86-7.82 (m, 2H); 7.62-7.56 (m, 2H); 7.44 (m, 2H); 7.34 (m, 1H); 4.40 (m, 2H); 1.35 (m, 3H).

reactant | 5-phenyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | C1(=CC=CC=C1)C=1C=C2C(=NC1)NC(C2)=O | C13H10N2O
reactant | diethoxymethyl acetate | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 3-[Ethoxymethylidene]-5-phenyl-1H-pyrrolo[2,3-b]pyridin-2-one | C(C)OC=C1C(NC2=NC=C(C=C21)C2=CC=CC=C2)=O | C16H14N2O2
